US08242133B2
A mixture of 0.28 g of 6-chloro-2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole, 0.24 g of potassium carbonate and 3 ml of methanol was stirred while heating at 60° C. for two hours. Water was added to the reaction mixture, followed by extraction with ethyl acetate twice. The combined organic layers were washed with a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.13 g of 6-chloro-2-(3-methoxypyridin-4-yl)-5-(trifluoromethyl)benzoxazole (hereinafter, referred to as “active compound 91”).

reactant | 6-chloro-2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.28 g | ClC1=CC2=C(N=C(O2)C2=C(C=NC=C2)F)C=C1C(F)(F)F | C13H5ClF4N2O
reactant | potassium carbonate | 0.24 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 3 ml | CO | CH4O
solvent | Water | O | H2O
product | 6-chloro-2-(3-methoxypyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.13 g | ClC1=CC2=C(N=C(O2)C2=C(C=NC=C2)OC)C=C1C(F)(F)F | C14H8ClF3N2O2
